US20010049385A1
Phosphorus tribromide (11.75 ml, 125 mmol) was added to a solution of crude (2-chloro-3-(trifluoromethyl)phenyl)methanol (9.37 g, 44.5 mmol) in dioxane (200 ml). The reaction mixture was stirred for 1 hour. Another portion of phosphorus tribromide (11.75 ml, 125 mmol) was added. The reaction mixture was stirred for 16 hours at room temperature. It was diluted with ethyl acetate (200 ml). A 10% aqueous solution of sodium hydrogensulphate (200 ml) was added, while cooling with a water bath. The phases were separated. The organic phase was washed with a 10% aqueous solution of sodium hydrogensulphate (100 ml). The combined aqueous layers were extracted with ethyl acetate (100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (150 g), using ethyl acetate/heptane (1:3) as eluent, to give 6.94 g of 1-(bromomethyl)-2-chloro-3-(trifluoromethyl)benzene.

reactant | Phosphorus tribromide | 125 mmol, 11.75 ml | P(Br)(Br)Br | Br3P
reactant | (2-chloro-3-(trifluoromethyl)phenyl)methanol | 44.5 mmol, 9.37 g | ClC1=C(C=CC=C1C(F)(F)F)CO | C8H6ClF3O
reactant | phosphorus tribromide | 125 mmol, 11.75 ml | P(Br)(Br)Br | Br3P
reactant | sodium hydrogensulphate | 200 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(bromomethyl)-2-chloro-3-(trifluoromethyl)benzene | 6.94 g | BrCC1=C(C(=CC=C1)C(F)(F)F)Cl | C8H5BrClF3
